US08314088B2
tert-butyl 2-bromo-3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate
A mixture of tert-butyl 3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate (1.0 g), N-bromosuccinimide (608 mg) and acetonitrile (20 mL) was stirred at room temperature for 16 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient: 3→30% ethyl acetate/hexane) to give the title compound (915 mg, 74%) as a colorless oil.

reactant | tert-butyl 3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate | 1.0 g | CN(C1=NC2=C(CN(CCO2)C(=O)OC(C)(C)C)N=C1)C(C)C | C16H26N4O3
reactant | N-bromosuccinimide | 608 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | tert-butyl 2-bromo-3-[methyl(1-methylethyl)amino]-6,7-dihydropyrazino[2,3-f][1,4]oxazepine-8(9H)-carboxylate | 915 mg, 74% | BrC=1C(=NC2=C(CN(CCO2)C(=O)OC(C)(C)C)N1)N(C(C)C)C | C16H25BrN4O3
